US08937071B2
A reaction mixture of ethyl 2,2-dimethyl-3-(4-nitro-2-(trifluoromethyl)phenyl)propanoate (8.5 g, 26.6 mmol) and Pd/C (0.283 g, 2.66 mmol) in MeOH (50 mL) was hydrogenated using an H-cube (settings: 50° C., 50 psi, 24 h). The mixture was filtered and the filtrate was concentrated. The crude material was purified on silica column chromatography (PE/EA=10:1). All fractions found to contain product by TLC (PE/EA=5:1, Rf=0.4) were combined and concentrated to yield a off white solid of ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (7 g, 22.42 mmol, 84.0% yield): 1H NMR (400 MHz, CDCl3) δ: 6.98 (d, J=8.4 Hz, 1H), 6.91 (d, J=2.4 Hz, 1H), 6.71 (dd, J=2.4, 8.4 Hz, 1H), 4.15 (q, J=6.8 Hz, 2H), 3.00 (s, 2H), 1.25 (t, J=7.2 Hz, 3H), 1.14 (s, 6H); ES-LCMS m/z 290 (M+H).

reactant | ethyl 2,2-dimethyl-3-(4-nitro-2-(trifluoromethyl)phenyl)propanoate | 26.6 mmol, 8.5 g | CC(C(=O)OCC)(CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C14H16F3NO4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 2.66 mmol, 0.283 g | [Pd] | Pd
product | ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 22.42 mmol, 7 g, 84.0% yield | NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F | C14H18F3NO2
